US06538004B2
4-(4-bromo-3-chlorophenyl)-1-methyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridine-3,5(6H,8H)-dione
2H-Pyran-3,5(4H,6H)-dione (0.057 g, 05 mmol), 3-chloro4-bromo-benzaldehyde (0.11 g, 0.5 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.056g, 0.5 mmol) were processed as described in Example 26C to provide 0.145 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 3.5 (s, 3H), 4.0 (s, 2H), 4.52 (q, 2H), 4.92 (s, 1H), 7.03 (dt, 1H), 7.32(t, 1H), 7.6 (dd, 1H), 9.62 (s, 1H), 10.1 (s, 1H); MS (ESI−) m/z 410 (M−H:) Anal. calcd for C16H13N3BrClO3: C, 46.80;H,3.19; N, 10.23. Found: C, 46.77;H, 3.43; N, 10.27.

reactant | 2H-Pyran-3,5(4H,6H)-dione | 0.057 g | O1CC(CC(C1)=O)=O | C5H6O3
reactant | 3-chloro4-bromo-benzaldehyde | 0.5 mmol, 0.11 g | ClC=1C=C(C=O)C=CC1Br | C7H4BrClO
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 0.5 mmol, 0.056g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(4-bromo-3-chlorophenyl)-1-methyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridine-3,5(6H,8H)-dione | 0.145 g | BrC1=C(C=C(C=C1)C1C2=C(NC3=C1C(NN3C)=O)COCC2=O)Cl | C16H13BrClN3O3
